US06465497B2
A solution of 4-cyclohexyl allyloxyphenol (12.3 g) in ortho-dichlorobenzene (50 mL) was kept at reflux for 36 h. The mixture was cooled to room temperature and chromatographed over silica gel to afford 2-propenyl-4-cyclohexylphenol (11.0 g). This material was dissolved in methanol (150 mL) and hydrogenated over Pd/C (1.2 g) at 50 psi. The reaction was filtered through Celite and concentrated in vacuo to afford the title compound (11.0 g).

reactant | 4-cyclohexyl allyloxyphenol | 12.3 g | C1(CCCCC1)C1=CC(=C(C=C1)O)OCC=C | C15H20O2
reactant | ortho-dichlorobenzene | 50 mL | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 2-propenyl-4-cyclohexylphenol | 11.0 g | C(=CC)C1=C(C=CC(=C1)C1CCCCC1)O | C15H20O
